US05021398
TRIPHENYL BISMUTH (V) METHACRYLATE
The general method as outlined by V. A. Dodonov, A. V. Gustichin and T. G. Brilkina (Zh. Obsch. Khim 55, 1(73) 1985) was followed for the preparation of this compound. The details of a typical preparation are: Triphenyl bismuthine (4.4 g, 0.01 mol.), methacrylic acid (1.97 g) (0.02 mol), tert-butyl hydroperoxide (1.39 g) were mixed with 20 ml of diethyl ether in a round bottom flask. The contents were stirred overnight (20 hr) at ambient temperature. The volatile matter was then removed in vacuo (0.1 mm Hg) for 5 hr to obtain a solid which was analyzed for its metal content.

reactant | Triphenyl bismuthine | 0.01 mol, 4.4 g | C1(=CC=CC=C1)[Bi](C1=CC=CC=C1)C1=CC=CC=C1
reactant | methacrylic acid | 0.02 mol, 1.97 g | C(C(=C)C)(=O)O | C4H6O2
reactant | tert-butyl hydroperoxide | 1.39 g | C(C)(C)(C)OO | C4H10O2
solvent | diethyl ether | 20 ml | C(C)OCC | C4H10O
product | TRIPHENYL BISMUTH (V) METHACRYLATE | C(C(=C)C)(=O)[O-].C1(=CC=CC=C1)[Bi+2](C1=CC=CC=C1)C1=CC=CC=C1.C(C(=C)C)(=O)[O-] | InChI=1S/3C6H5.2C4H6O2.Bi/c3*1-2-4-6-5-3-1;2*1-3(2)4(5)6;/h3*1-5H;2*1H2,2H3,(H,5,6);/q;;;;;+2/p-2
